US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)-hydrazino]-2-hydroxypropionic Acid Ethyl Ester
5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid (89.5 mg, 436 μmol) was combined with HCTU (244 mg, 589 μmol) in DMF (1.0 mL, 13 mmol) and stirred for 10 minutes. (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (80.0 mg, 0.2 mmol) and DIPEA (0.1 mL, 0.7 mmol) were added, and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc (10.0 mL) and washed with water (3.0 mL), saturated aqueous NaHCO3 (2×3.0 mL), and saturated aqueous NaCl (3.0 mL), then dried over Na2SO4, filtered and concentrated to give a yellowish solid. A portion (20 mg) of the solid was dissolved in AcOH (1.5 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound (1.6 mg, purity 100%). MS m/z [M+H]+ calc'd for C27H23ClFN3O3, 554.15. found 554.4.

reactant | 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid | 436 μmol, 89.5 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 589 μmol, 244 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 13 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 0.2 mmol, 80.0 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 0.7 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
solvent | AcOH | 1.5 mL | CC(=O)O | C2H4O2
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)-hydrazino]-2-hydroxypropionic Acid Ethyl Ester | 1.6 mg | C(C)OC([C@@H](CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C27H25ClFN5O5
